US07652007B2
i) 3-Amino-6-(4-chlorobenzyl)-1-(2,4-dichlorobenzenesulfonyl)-8-isopropyl-3-methylhexahydropyrazino[1,2-a]pyrimidine-4,7-dione
A solution of benzyl[6-(4-chlorobenzyl)-1-(2,4-dichlorobenzenesulfonyl)-8-isopropyl-3-methyl-4,7-dioxooctahydropyrazino[1,2-a]pyrimidin-3-yl]carbamate in 2 ml of acetonitrile is cooled to 0° C. in an ice bath, and 0.05 ml (0.35 mmol) of TMSI is added.

reactant | benzyl[6-(4-chlorobenzyl)-1-(2,4-dichlorobenzenesulfonyl)-8-isopropyl-3-methyl-4,7-dioxooctahydropyrazino[1,2-a]pyrimidin-3-yl]carbamate | C(C1=CC=CC=C1)OC(NC1(CN(C2N(C1=O)C(C(N(C2)C(C)C)=O)CC2=CC=C(C=C2)Cl)S(=O)(=O)C2=C(C=C(C=C2)Cl)Cl)C)=O | C32H33Cl3N4O6S
reactant | TMSI | 0.35 mmol, 0.05 ml | [Si](C)(C)(C)I | C3H9ISi
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
product | 3-Amino-6-(4-chlorobenzyl)-1-(2,4-dichlorobenzenesulfonyl)-8-isopropyl-3-methylhexahydropyrazino[1,2-a]pyrimidine-4,7-dione | NC1(CN(C2N(C1=O)C(C(N(C2)C(C)C)=O)CC2=CC=C(C=C2)Cl)S(=O)(=O)C2=C(C=C(C=C2)Cl)Cl)C | C24H27Cl3N4O4S
